US06268387B1
Step C: 3-Phenoxy-4-methoxybenzoic Acid
3-Phenoxy-4-methoxybenzoic acid methyl ester (0.8 g, 3.1 mmol) was stirred in a mixture of methanol (8 mL) and 4N potassium hydroxide (10 mL) and heated to reflux. After 2 hours, the mixture was stirred into water (60 mL) and extracted with ether (25 mL). The aqueous solution was stirred and acidified with 4N HCl, and the resulting precipitate was filtered off, rinsed with water, and dried to afford the product (0.7 g); m.p. 186-187° C.

reactant | 3-Phenoxy-4-methoxybenzoic acid methyl ester | 3.1 mmol, 0.8 g | COC(C1=CC(=C(C=C1)OC)OC1=CC=CC=C1)=O | C15H14O4
reactant | water | 60 mL | O | H2O
solvent | methanol | 8 mL | CO | CH4O
solvent | potassium hydroxide | 4N, 10 mL | [OH-].[K+]
product | 3-Phenoxy-4-methoxybenzoic Acid | 0.7 g | O(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1OC | C14H12O4
